US07923450B2
a) 2-Methoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzamide
A solution of 4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzoic acid (810 mg, 2.1 mmol) and 1,1′-carbonyldiimidazol (463 mg, 2.8 mmol) in dimethylformamide (15 mL) was stirred for 30 minutes at 50° C. The solution was cooled to 0° C. and 25% aqueous ammonium hydroxide solution (1.6 mL, 21.3 mmol) was added slowly. The reaction mixture was stirred for 45 minutes at room temperature. The reaction was poured onto water, stirred for 15 minutes and the solid was filtered off, washed with water and dried to yield the title compound (661 mg, 82%) as an off-white solid. mp 243-246° C. MS ISP (m/e): 380.4 (100) [(M+H)+].

reactant | 4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzoic acid | 2.1 mmol, 810 mg | C1(=CC=CC=C1)C1CCCC2=C1N=C(S2)NC2=CC=C(C(=O)O)C=C2 | C20H18N2O2S
reactant | 1,1′-carbonyldiimidazol | 2.8 mmol, 463 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 21.3 mmol, 1.6 mL | [OH-].[NH4+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-Methoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzamide | 661 mg, 82% | COC1=C(C(=O)N)C=CC(=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C21H21N3O2S
